US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-{[(1R, 2S)-2-hydroxy-1-methyl-2-phenylethyl]amino}-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 51, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile (0.10 g, 0.32 mmol) was reacted with (1S, 2R)-(+) norephdrine (0.96 g, 6.32 mmol) in 2 mL of THF. The reaction mixture was heated in a sealed vial in a microwave reactor at 140° C. for 50 min, then heated to 160° C. for 30 min. The crude product was purified by preparative HPLC and lyophilized to give a fluffy, yellow solid (26.4 mg, 18.7% yield): 1H NMR (400 MHz, DMSO-D6) δ ppm 1.03 (d, J=6.32 Hz, 3 H) 3.87-4.02 (m, 1 H) 4.67 (t, J=4.67 Hz, 1 H) 5.46 (d, J=4.29 Hz, 1 H) 6.43 (d, J=9.35 Hz, 1 H) 6.93 (s, 1 H) 7.12 (t, J=7.33 Hz, 1 H) 7.18-7.46 (m, 6 H) 7.48-7.55 (m, 1 H) 8.19 (s, 1 H) 8.75 (s, 1 H) 9.54 (s, 1 H); HRMS (ESI+) calcd for C24H19ClFN5O 448.13349, found (MH+), 448.1334.

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 0.32 mmol, 0.10 g | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[(1R, 2S)-2-hydroxy-1-methyl-2-phenylethyl]amino}-1,7-naphthyridine-3-carbonitrile | 26.4 mg, 18.7% yield | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)N[C@@H]([C@H](C1=CC=CC=C1)O)C)C#N | C24H19ClFN5O
